* .include ../../../tech_files/TSMC_180nm.txt
.include ../../inv/cmos/inv_cmos.cir
.include ../../nand/cmos/nand_cmos.cir
.include ../../xor/optimized/xor_optimized.cir

* .param SUPPLY=1.8
* .param LAMBDA=0.09u
* .param width_N={20*LAMBDA}
* .param width_P={2.5*width_N}
* .param length={2*LAMBDA}
* .global gnd vdd

* VDD vdd gnd SUPPLY
* vinA3 A3 gnd PULSE(0 SUPPLY 320ns 1ps 1ps 320ns  640ns)
* vinA2 A2 gnd PULSE(0 SUPPLY 160ns 1ps 1ps 160ns  320ns)
* vinA1 A1 gnd PULSE(0 SUPPLY  80ns 1ps 1ps  80ns  160ns)
* vinA0 A0 gnd PULSE(0 SUPPLY  40ns 1ps 1ps  40ns   80ns)
* vinB3 B3 gnd PULSE(0 SUPPLY  20ns 1ps 1ps  20ns   40ns)
* vinB2 B2 gnd PULSE(0 SUPPLY  10ns 1ps 1ps  10ns   20ns)
* vinB1 B1 gnd PULSE(0 SUPPLY   5ns 1ps 1ps   5ns   10ns)
* VinB0 B0 gnd PULSE(0 SUPPLY 2.5ns 1ps 1ps 2.5ns    5ns)

.subckt pg_gen_optimized A3 A2 A1 A0 B3 B2 B1 B0 P3 P2 P1 P0 G3 G2 G1 G0 
    Xxor3  A3 B3 P3  xor_optimized
    Xxor2  A2 B2 P2  xor_optimized
    Xxor1  A1 B1 P1  xor_optimized
    Xxor0  A0 B0 P0  xor_optimized
    Xnand3 A3 B3  a nand_cmos
    Xnand2 A2 B2  b nand_cmos
    Xnand1 A1 B1  c nand_cmos
    Xnand0 A0 B0  d nand_cmos
    Xand3   a    G3  inv_cmos
    Xand2   b    G2  inv_cmos
    Xand1   c    G1  inv_cmos
    Xand0   d    G0  inv_cmos
.ends

* X1 A3 A2 A1 A0 B3 B2 B1 B0 P3 P2 P1 P0 G3 G2 G1 G0 pg_gen_optimized

* .tran 1n 640n 

* .measure tran t_in WHEN v(A3)=0.5*SUPPLY CROSS=1
* .measure tran t_out WHEN v(G2)=0.5*SUPPLY CROSS=16
* .measure tran t_delay PARAM='t_out-t_in'

* .control
*     set hcopypscolor = 1
*     set color0=beige
*     set color1=black
*     set color2=blue
*     set color3=darkgreen
*     set color4=darkred
*     set color5=darkviolet
*     set color6=darkorange

*     run
*     plot v(A3)+30 v(A2)+28 v(A1)+26 v(A0)+24 v(B3)+22 v(B2)+20 v(B1)+18 v(B0)+16 v(P3)+14 v(P2)+12 v(P1)+10 v(P0)+8 v(G3)+6 v(G2)+4 v(G1)+2 v(G0) 
* .endc