.include ../../../../tech_files/TSMC_180nm.txt

.param SUPPLY=1.8
.param LAMBDA=0.09u
.param width_N={20*LAMBDA}
.param width_P={2.5*width_N}
.param length={2*LAMBDA}
.global gnd vdd

VDD vdd gnd SUPPLY
vinP3 P3 gnd PULSE(0 SUPPLY  320ns 1ps 1ps  320ns   640ns)
vinP2 P2 gnd PULSE(0 SUPPLY  160ns 1ps 1ps  160ns   320ns)
vinP1 P1 gnd PULSE(0 SUPPLY   80ns 1ps 1ps   80ns   160ns)
vinP0 P0 gnd PULSE(0 SUPPLY   40ns 1ps 1ps   40ns    80ns)
vinC3 C3 gnd PULSE(0 SUPPLY   20ns 1ps 1ps   20ns    40ns)
vinC2 C2 gnd PULSE(0 SUPPLY   10ns 1ps 1ps   10ns    20ns)
vinC1 C1 gnd PULSE(0 SUPPLY    5ns 1ps 1ps    5ns    10ns)
VinC0 C0 gnd PULSE(0 SUPPLY  2.5ns 1ps 1ps  2.5ns     5ns)

.option scale=0.09u

.subckt inv_cmos IN w_0_0# vdd OUT
M1000 OUT IN vdd w_0_0# CMOSP w=50 l=2
+  ad=250 pd=110 as=250 ps=110
M1001 OUT IN gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=100 ps=50
C0 OUT vdd 0.52fF
C1 OUT IN 0.05fF
C2 vdd w_0_0# 0.07fF
C3 IN w_0_0# 0.06fF
C4 IN gnd 0.05fF
C5 OUT w_0_0# 0.07fF
C6 OUT gnd 0.21fF
C7 IN vdd 0.02fF
C8 gnd Gnd 0.06fF
C9 OUT Gnd 0.05fF
C10 vdd Gnd 0.00fF
C11 IN Gnd 0.13fF
C12 w_0_0# Gnd 1.49fF
.ends

.subckt xor_optimized Y w_26_37# A B inv_cmos_0/vdd
Xinv_cmos_0 B w_26_37# inv_cmos_0/vdd inv_cmos_0/OUT inv_cmos
M1000 Y A inv_cmos_0/OUT Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=100 ps=50
M1001 Y A B w_26_37# CMOSP w=50 l=2
+  ad=250 pd=110 as=320 ps=110
C0 inv_cmos_0/OUT B 0.70fF
C1 A B 0.05fF
C2 inv_cmos_0/OUT Y 0.28fF
C3 B w_26_37# 0.28fF
C4 Y w_26_37# 0.07fF
C5 A w_26_37# 0.10fF
C6 Y B 0.56fF
C7 Y Gnd 0.05fF
C8 A Gnd 0.01fF
C9 inv_cmos_0/OUT Gnd 0.06fF
C10 B Gnd 0.32fF
C11 w_26_37# Gnd 1.12fF
.ends


* Top level circuit sum_gen_cmos_unrouted

Xxor_optimized_0 S2 xor_optimized_0/w_26_37# C2 P2 xor_optimized_2/inv_cmos_0/vdd
+ xor_optimized
Xxor_optimized_1 S1 xor_optimized_1/w_26_37# C1 P1 xor_optimized_3/inv_cmos_0/vdd
+ xor_optimized
Xxor_optimized_2 S0 xor_optimized_2/w_26_37# C0 P0 xor_optimized_2/inv_cmos_0/vdd
+ xor_optimized
Xxor_optimized_3 S3 xor_optimized_3/w_26_37# C3 P3 xor_optimized_3/inv_cmos_0/vdd
+ xor_optimized
C0 xor_optimized_3/w_26_37# C3 0.01fF
C1 C1 xor_optimized_1/w_26_37# 0.01fF
C2 C1 C3 0.15fF
C3 xor_optimized_0/w_26_37# C2 0.01fF
C4 C0 C2 0.15fF
C5 P1 S2 0.08fF
C6 S0 P3 0.08fF
C7 C0 xor_optimized_2/w_26_37# 0.01fF
C8 S3 Gnd -0.06fF
C9 C3 Gnd -0.20fF
C10 P3 Gnd 0.02fF
C11 S0 Gnd 0.02fF
C12 C0 Gnd -0.04fF
C13 P0 Gnd 0.02fF
C14 S1 Gnd -0.06fF
C15 C1 Gnd -0.15fF
C16 P1 Gnd 0.02fF
C17 S2 Gnd 0.02fF
C18 C2 Gnd 0.01fF
C19 P2 Gnd 0.02fF
.end


.tran 1n 640n 

.measure tran t_in WHEN v(P0)=0.5*SUPPLY CROSS=1
.measure tran t_out WHEN v(S3)=0.5*SUPPLY CROSS=2
.measure tran t_delay PARAM='t_out-t_in'

.control
    set hcopypscolor = 1
    set color0=beige
    set color1=black
    set color2=blue
    set color3=darkgreen
    set color4=darkred
    set color5=darkviolet
    set color6=darkorange

    run
    plot v(P3)+22 v(P2)+20 v(P1)+18 v(P0)+16 v(C3)+14 v(C2)+12 v(C1)+10 v(C0)+8 v(S3)+6 v(S2)+4 v(S1)+2 v(S0) 
.endc